US07405305B2
{5-[3-(tert-Butyldimethylsilyloxy)propoxy]-1-isopropyl-1H-indol-3-yl}oxoacetic acid methyl ester
Dissolve 5-[3-(tert-butyldimethyl-silyloxy)propoxy]-1-isopropyl-1H-indole (0.43 g, 1.124 mmol) in tetrahydrofuran (40 mL). Add 2,6-lutidine (0.43 mL, 3 eq) and cool to 0° C. Add oxalyl chloride dropwise and stir for 1.5 hours then cool to −78° C., add methanol (0.1 mL, 2 eq) and treated with sodium methoxide (25% w/w in methanol, 22.5 mL). Stir for 1 hour then dilute with ethyl acetate and extract with saturated sodium bicarbanate then brine. Dry over magnesium sulfate, filter and concentrate. Purification by column chromatography (4:1 hexanes:ethyl acetate) affords the title compound as a light yellow oil. MS (ES, m/z): 434.3 (M+1).

reactant | 5-[3-(tert-butyldimethyl-silyloxy)propoxy]-1-isopropyl-1H-indole | 1.124 mmol, 0.43 g | C(C)(C)(C)[Si](OCCCOC=1C=C2C=CN(C2=CC1)C(C)C)(C)C | C20H33NO2Si
reactant | 2,6-lutidine | 0.43 mL, 3 eq | N1=C(C=CC=C1C)C | C7H9N
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 0.1 mL, 2 eq | CO | CH4O
reactant | sodium methoxide | 22.5 mL | C[O-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {5-[3-(tert-Butyldimethylsilyloxy)propoxy]-1-isopropyl-1H-indol-3-yl}oxoacetic acid methyl ester | COC(C(=O)C1=CN(C2=CC=C(C=C12)OCCCO[Si](C)(C)C(C)(C)C)C(C)C)=O | C23H35NO5Si
